US08236826B2
Production of N-[4-(5-nitropyridin-2-yloxy)phenyl]-N-[2-(4-piperonylpiperazin-1-yl)-2-oxoethyl]acetamide
To a solution of ethyl{acetyl[4-(5-nitropyridin-2-yloxy)phenyl]amino}acetate (2.30 g, 6.40 mmol) in ethanol (50 mL) was added 5 M aqueous sodium hydroxide (1.92 mL, 9.60 mmol), and the resulting solution was stirred at room temperature for 30 minutes. To this reaction solution were added 5 M hydrochloric acid (2 mL) and water, and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, evaporated, and the obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1), to thereby yield 1.68 g of an oil. To a solution of this oil in DMF (10 mL) were added 1-piperonylpiperazine (1.29 g, 5.86 mmol), triethylamine (1.85 mL, 13.3 mmol) and diethyl cyanophosphonate (1.07 mL, 6.36 mmol), and the resulting solution was stirred for 1 hour at room temperature. To this reaction solution was added water and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, evaporated, and the residue was purified by silica gel column chromatography (dichloromethane:methanol=30:1), to thereby yield 2.21 g of the title compound.

reactant | ethyl{acetyl[4-(5-nitropyridin-2-yloxy)phenyl]amino}acetate | 6.40 mmol, 2.30 g | C(C)OC(CN(C1=CC=C(C=C1)OC1=NC=C(C=C1)[N+](=O)[O-])C(C)=O)=O | C17H17N3O6
reactant | sodium hydroxide | 9.60 mmol, 5 M, 1.92 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5 M, 2 mL | Cl | ClH
reactant | 1-piperonylpiperazine | 5.86 mmol, 1.29 g | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
reactant | triethylamine | 13.3 mmol, 1.85 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 6.36 mmol, 1.07 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[4-(5-nitropyridin-2-yloxy)phenyl]-N-[2-(4-piperonylpiperazin-1-yl)-2-oxoethyl]acetamide | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)N(C(C)=O)CC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1 | C27H27N5O7
